US08629157B2
Step 2: Synthesis of (S)-1-(1,1-dioxo-1λ6-thiomorpholine-4-carbonyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
To a solution of (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (0.092 g; 0.337 mmol) in tetrahydrofuran (2.5 mL) is added 1,1-dioxo-1λ6-thiomorpholine-4-carbonyl chloride (0.067 g; 0.337 mmol) and N,N-diisopropylethylamine (0.123 mL; 0.708 mmol). The mixture is stirred at room temperature for 3 hours before diluting with ethyl acetate and washing with 1N hydrochloric acid and brine. The organics are concentrated in vacuo and purified by preparatory HPLC. The product fractions are pooled and concentrated in vacuo to afford title compound. ESI m/z 399 [M+H]+/397 [M−H]−

reactant | (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NCCC1 | C12H19N3O2
reactant | hydrochloride | 0.337 mmol, 0.092 g | Cl | ClH
reactant | 1,1-dioxo-1λ6-thiomorpholine-4-carbonyl chloride | 0.337 mmol, 0.067 g | O=S1(CCN(CC1)C(=O)Cl)=O | C5H8ClNO3S
reactant | N,N-diisopropylethylamine | 0.708 mmol, 0.123 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(1,1-dioxo-1λ6-thiomorpholine-4-carbonyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(CCC1)C(=O)N1CCS(CC1)(=O)=O | C17H26N4O5S
